US04925856
To a solution of 6.05 grams of 3-hydroxy-1-propyl methanesulfonate prepared above, in 25 ml of dichloromethane cooled at -20° C., was added 3.17 ml of pyridine. The mixture was then added via cannula over a 40 minute period to a stirred solution of 6.64 ml of triflic anhydride in 50 ml of dichloromethane cooled at 0° C. After being stirred for 15 minutes, the mixture was washed with two 50 ml portions of water, dried over magnesium sulfate, filtered and concentrated in vacuo to give a tan oil. The oil was flash-chromotographed on silica gel and eluted with dichloromethane to provide 8.91 grams of pure 3-methanesulfonyloxy-1-(trifluoromethanesulfonyloxy)propane as a colorless oil.

reactant | 3-hydroxy-1-propyl methanesulfonate | 6.05 grams | CS(=O)(=O)OCCCO | C4H10O4S
reactant | pyridine | 3.17 ml | N1=CC=CC=C1 | C5H5N
reactant | triflic anhydride | 6.64 ml | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 3-methanesulfonyloxy-1-(trifluoromethanesulfonyloxy)propane | 8.91 grams | CS(=O)(=O)OCCCOS(=O)(=O)C(F)(F)F | C5H9F3O6S2
